US07619096B2
Preparation 1: 1,1-Dimethylethyl (3S)-3-aminopyrrolidine-1-carboxylate
Solid di-tert-butyldicarbonate (38.8 g, 178 mmol) was added in portions over 15 minutes to a stirred solution of (3R)-pyrrolidin-3-ol hydrochloride (20 g, 162 mmol), triethylamine (24. 8 mL, 178 mmol) and 4-(dimethylamino)-pyridine (DMAP) (20 mg) in dry dichloromethane (300 mL). After stirring for 2 hours at room temperature, the mixture was washed with aqueous citric acid, then brine. The organic extracts were dried (MgSO4), filtered and evaporated in vacuo to give an oil. This was purified by flash chromatography on silica, eluting with ethyl acetate/cyclohexane (20:80 to 60:40), to give the title compound as a solid.

reactant | di-tert-butyldicarbonate | 178 mmol, 38.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3R)-pyrrolidin-3-ol hydrochloride | 162 mmol, 20 g | Cl.N1C[C@@H](CC1)O
reactant | triethylamine | 178 mmol, 8 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)-pyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-aminopyrrolidine-1-carboxylate | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
